* Extracted by KLayout with GF180MCU LVS runset on : 10/09/2025 21:35

.SUBCKT triangle_osc vss vcompp inn|vlo v_4_1_pn v_8_7 inn|inp|out vdd iref
+ vssd vddd ibias_p nq ibias_n v_5_6 inp|vho
M$1 \$3 inn|vlo \$16 vdd pfet_03v3 L=1U W=12U AS=4.29P AD=4.29P PS=17.86U
+ PD=17.86U
M$5 \$4 inn|inp|out \$16 vdd pfet_03v3 L=1U W=12U AS=4.29P AD=4.29P PS=17.86U
+ PD=17.86U
M$9 vdd \$2 \$2 vdd pfet_03v3 L=0.6U W=25U AS=8.45P AD=8.45P PS=33.38U PD=33.38U
M$14 vdd \$2 vcompp vdd pfet_03v3 L=0.6U W=25U AS=8.45P AD=8.45P PS=33.38U
+ PD=33.38U
M$19 \$16 ibias_p vdd vdd pfet_03v3 L=1U W=14U AS=5.005P AD=5.005P PS=20.36U
+ PD=20.36U
M$23 ibias_p ibias_p vdd vdd pfet_03v3 L=1U W=7U AS=3.185P AD=3.185P PS=12.32U
+ PD=12.32U
M$25 inn|inp|out nq v_5_6 vdd pfet_03v3 L=1U W=6U AS=3.9P AD=3.9P PS=13.3U
+ PD=13.3U
M$26 vdd v_4_1_pn ibias_n vdd pfet_03v3 L=1U W=6U AS=3.9P AD=3.9P PS=13.3U
+ PD=13.3U
M$27 vdd v_4_1_pn v_4_1_pn vdd pfet_03v3 L=1U W=6U AS=3.9P AD=3.9P PS=13.3U
+ PD=13.3U
M$28 v_5_6 v_4_1_pn vdd vdd pfet_03v3 L=1U W=6U AS=3.9P AD=3.9P PS=13.3U
+ PD=13.3U
M$29 \$67 \$67 vdd vdd pfet_03v3 L=0.5U W=10U AS=4.55P AD=4.55P PS=16.82U
+ PD=16.82U
M$31 \$68 \$67 vdd vdd pfet_03v3 L=0.5U W=10U AS=4.55P AD=4.55P PS=16.82U
+ PD=16.82U
M$33 \$65 \$67 vdd vdd pfet_03v3 L=0.5U W=16.5U AS=7.5075P AD=7.5075P PS=26.57U
+ PD=26.57U
M$35 \$67 \$68 vdd vdd pfet_03v3 L=0.5U W=10U AS=4.55P AD=4.55P PS=16.82U
+ PD=16.82U
M$37 \$68 \$68 vdd vdd pfet_03v3 L=0.5U W=10U AS=4.55P AD=4.55P PS=16.82U
+ PD=16.82U
M$39 \$69 \$68 vdd vdd pfet_03v3 L=0.5U W=16.5U AS=7.5075P AD=7.5075P PS=26.57U
+ PD=26.57U
M$41 \$38 nq vddd vddd pfet_05v0 L=0.5U W=3.29U AS=1.1515P AD=1.1515P PS=6.335U
+ PD=6.335U
M$42 vddd vcompp \$38 vddd pfet_05v0 L=0.5U W=3.29U AS=0.8554P AD=0.8554P
+ PS=4.33U PD=4.33U
M$45 nq \$38 vddd vddd pfet_05v0 L=0.5U W=3.29U AS=1.1515P AD=1.1515P PS=6.335U
+ PD=6.335U
M$46 vddd \$69 nq vddd pfet_05v0 L=0.5U W=3.29U AS=0.8554P AD=0.8554P PS=4.33U
+ PD=4.33U
M$49 vss \$3 \$2 vss nfet_03v3 L=1U W=5.5U AS=3.355P AD=3.355P PS=12.22U
+ PD=12.22U
M$50 \$3 \$3 vss vss nfet_03v3 L=1U W=5.5U AS=3.355P AD=3.355P PS=12.22U
+ PD=12.22U
M$51 vss \$4 \$3 vss nfet_03v3 L=1U W=5.5U AS=3.355P AD=3.355P PS=12.22U
+ PD=12.22U
M$52 \$4 \$3 vss vss nfet_03v3 L=1U W=5.5U AS=3.355P AD=3.355P PS=12.22U
+ PD=12.22U
M$53 vss \$4 \$4 vss nfet_03v3 L=1U W=5.5U AS=3.355P AD=3.355P PS=12.22U
+ PD=12.22U
M$54 vcompp \$4 vss vss nfet_03v3 L=1U W=5.5U AS=3.355P AD=3.355P PS=12.22U
+ PD=12.22U
M$55 vss iref v_4_1_pn vss nfet_03v3 L=1U W=4U AS=2.44P AD=2.44P PS=9.22U
+ PD=9.22U
M$56 v_8_7 iref vss vss nfet_03v3 L=1U W=4U AS=2.44P AD=2.44P PS=9.22U PD=9.22U
M$57 vss iref iref vss nfet_03v3 L=1U W=4U AS=2.44P AD=2.44P PS=9.22U PD=9.22U
M$58 inn|inp|out nq v_8_7 vss nfet_03v3 L=1U W=4U AS=2.44P AD=2.44P PS=9.22U
+ PD=9.22U
M$59 vss iref ibias_p vss nfet_03v3 L=1U W=4U AS=2.44P AD=2.44P PS=9.22U
+ PD=9.22U
M$60 ibias_n ibias_n vss vss nfet_03v3 L=1U W=2.5U AS=1.525P AD=1.525P PS=6.22U
+ PD=6.22U
M$61 \$58 ibias_n vss vss nfet_03v3 L=1U W=5U AS=2.175P AD=2.175P PS=9.24U
+ PD=9.24U
M$63 \$65 \$65 vss vss nfet_03v3 L=1U W=3.5U AS=2.135P AD=2.135P PS=8.22U
+ PD=8.22U
M$64 \$69 \$65 vss vss nfet_03v3 L=1U W=3.5U AS=2.135P AD=2.135P PS=8.22U
+ PD=8.22U
M$65 \$67 inn|inp|out \$58 vss nfet_03v3 L=1U W=4U AS=2.44P AD=2.44P PS=9.22U
+ PD=9.22U
M$66 \$68 inp|vho \$58 vss nfet_03v3 L=1U W=4U AS=2.44P AD=2.44P PS=9.22U
+ PD=9.22U
M$67 \$37 nq vssd vss nfet_05v0 L=0.6U W=1.32U AS=0.5808P AD=0.2112P PS=3.52U
+ PD=1.64U
M$68 \$38 vcompp \$37 vss nfet_05v0 L=0.6U W=1.32U AS=0.2112P AD=0.3432P
+ PS=1.64U PD=1.84U
M$69 \$44 vcompp \$38 vss nfet_05v0 L=0.6U W=1.32U AS=0.3432P AD=0.2112P
+ PS=1.84U PD=1.64U
M$70 vssd nq \$44 vss nfet_05v0 L=0.6U W=1.32U AS=0.2112P AD=0.5808P PS=1.64U
+ PD=3.52U
M$71 \$50 \$38 vssd vss nfet_05v0 L=0.6U W=1.32U AS=0.5808P AD=0.2112P PS=3.52U
+ PD=1.64U
M$72 nq \$69 \$50 vss nfet_05v0 L=0.6U W=1.32U AS=0.2112P AD=0.3432P PS=1.64U
+ PD=1.84U
M$73 \$53 \$69 nq vss nfet_05v0 L=0.6U W=1.32U AS=0.3432P AD=0.2112P PS=1.84U
+ PD=1.64U
M$74 vssd \$38 \$53 vss nfet_05v0 L=0.6U W=1.32U AS=0.2112P AD=0.5808P PS=1.64U
+ PD=3.52U
.ENDS triangle_osc
